US04230707
10-Oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxamide
A mixture of 10-oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylic acid (2.5 g, 0.01 mol) and 1,1'-carbonyldiimidazole (1.7 g, 0.01 mol) in dimethylformamide (25 ml) is heated at 90°-95° C. for one hour under nitrogen. The solution is cooled in an ice bath and anhydrous ammonia is bubbled through for 15 minutes. The mixture is stirred at ice bath temperature for 2 hours and at room temperature for one hour. The reaction mixture is cooled and the precipitate is filtered off. The precipitate is washed with tetrahydrofuran and recrystallized from dimethylformamide to give the product (1.2 g.), mp 319°-320° C.

reactant | 10-oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxylic acid | 0.01 mol, 2.5 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)O)C=CS2 | C11H6N2O3S
reactant | 1,1'-carbonyldiimidazole | 0.01 mol, 1.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 10-Oxo-10H-pyrido[1,2-a]thieno[3,2-d]pyrimidine-7-carboxamide | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)N)C=CS2 | C11H7N3O2S
